US08609687B2
Preparation of (R)-1-(4-amino-1H-pyrazol-1-yl)propan-2-ol
To a solution of 4-nitropyrazole (44.7 mg, 0.395 mmol, 1 equiv) in (R)-propylene oxide (1 mL) was added cesium carbonate (78 mg, 0.24 mmol, 0.61 equiv) at 24° C. After 64 h, the reaction mixture was partitioned between ethyl acetate (3 mL) and half-saturated aqueous sodium chloride solution (3 mL). The organic was separated, and the remaining aqueous phase was extracted with ethyl acetate (2×3 mL). The collected organic was dried over anhydrous sodium sulfate, filtered, and concentrated. The resulting residue was dissolved in methanol (4 mL) and circulated through a H-Cube® continuous-flow hydrogenation reactor (ThalesNano) fitted with a palladium on carbon catalyst cartridge at 30° C. The resulting solution was concentrated in vacuo to provide product as a pink oil, which was used without further purification. 1H NMR (500 MHz, CDCl3), δ: 7.17 (s, 1 H), 7.01 (s, 1 H), 4.13 (m, 1 H), 4.00 (dd, J=13.8, 2.7 Hz, 1 H), 3.84 (dd, J=13.8, 7.9 Hz, 1 H), 3.47 (s, 1 H), 3.15 (br s, 2 H), 1.18 (d, J=6.3 Hz, 3 H).

reactant | 4-nitropyrazole | 0.395 mmol, 44.7 mg, 1 equiv | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | cesium carbonate | 0.24 mmol, 78 mg, 0.61 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-propylene oxide | 1 mL | C1[C@@H](C)O1 | C3H6O
product | (R)-1-(4-amino-1H-pyrazol-1-yl)propan-2-ol | NC=1C=NN(C1)C[C@@H](C)O | C6H11N3O
